US09359375B2
A solution of (R)-tert-butyl 1-amino-3-methoxy-1-oxopropan-2-ylcarbamate (342 mg, 1.57 mmol) in 4N HCl in dioxane (5 mL) was stirred at room temperature for 18 h. It was then concentrated in vacuo to give (R)-2-amino-3-methoxypropanamide hydrochloride (260 mg).

reactant | (R)-tert-butyl 1-amino-3-methoxy-1-oxopropan-2-ylcarbamate | 1.57 mmol, 342 mg | NC([C@@H](COC)NC(OC(C)(C)C)=O)=O | C9H18N2O4
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | (R)-2-amino-3-methoxypropanamide hydrochloride | 260 mg | Cl.N[C@@H](C(=O)N)COC | InChI=1S/C4H10N2O2.ClH/c1-8-2-3(5)4(6)7;/h3H,2,5H2,1H3,(H2,6,7);1H/t3-;/m1./s1
